US07446201B2
Step 4: Synthesis of {[6-(3-Pentyl-1-benzofuran-2-yl)-2-(trifluoromethyl)quinolin-4-yl]oxy}acetonitrile:
To a stirred solution of 6-(3-pentyl-1-benzofuran-2-yl)-4-methoxy-2-(trifluoromethyl) quinoline (0.258 g, 0.624 mmol) in CH2Cl2 (10 mL) cooled to −78° C. was added BBr3 (1.68 mL, 1.0 M in CH2Cl2, 1.68 mmol) dropwise. The reaction was stirred at this temperature for 0.5 hour and then warmed to room temperature for 18 hours. The reaction mixture was then heated at reflux for 4 hours. At this point, BCl3 (1.68 mL, 1.0 M in CH2Cl2, 1.68 mmol) and Bu4N+I− (1.24 g, 3.37 mmol) were added and the mixture was allowed to stir at room temperature for 3 days. The reaction mixture was then quenched with MeOH (˜5 mL) followed by dilution with H2O (20 mL) and EtOAc (200 mL). The organic layer was washed with brine (20 mL) and then dried (Na2SO4). After concentration, the residue was dried under high vacuum to afford the product (0.247 g, 99%) as an oil. Mass spectrum (+ESI, (M+H]+) m/z 400. Reaction of this intermediate [6-(3-Pentyl-1-benzofuran-2-yl)-4-hydroxy-2-(trifluoromethyl) quinoline] with bromoacetonitrile according to the procedure described in Step 2 of Example 1; afforded the title compound as a solid. Mass spectrum (+ESI, [M+H]+) m/z 439. 1H NMR (500 MHz, DMSO-d6): δ 8.60 (s, 1H), 8.18-8.33 (m, 2H), 7.55-7.77 (m, 3H), 7.29-7.42 (m, 2H), 5.68 (s, 2H), 3.04 (t, 2H, J=8.2 Hz,), 1.73-1.86 (m, 2H), 1.31-1.51 (m, 4H), and 0.89 ppm (t, 3H, J=7.6 Hz).

reactant | 6-(3-Pentyl-1-benzofuran-2-yl)-4-hydroxy-2-(trifluoromethyl) quinoline | C(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C(=CC(=NC1=CC2)C(F)(F)F)O | C23H20F3NO2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | {[6-(3-Pentyl-1-benzofuran-2-yl)-2-(trifluoromethyl)quinolin-4-yl]oxy}acetonitrile | C(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C(=CC(=NC1=CC2)C(F)(F)F)OCC#N | C25H21F3N2O2
